US06242422B1
(3RS,4RS)-3-[N-((1-Naphtyloxy)Acetyl)Valinyl]Amino-5-Fluoro-4-Hydroxypentanoic Acid, tert-Butyl Ester
To a solution of (1-naphthyloxy)acetic acid (0.202 g, 1.0 mmol) in in dimethylformamide(4.0 mL) —CH2Cl2 (6.0 mL) at 0° C. (ice bath) under nitrogen was added hydroxybenzotriazole hydrate (0.168 g) followed by 1-ethyl-3-(3′,3′-dimethyl-1′-aminopropyl)carbodiimide hydrochloride (0.249 g, 1.3 mmol). After stirring for 10 min, the mixture was treated with a solution of (3RS,4RS)-3-(valinyl)amino-5-fluoro-4-hydroxypentanoic acid, tert-butyl ester (0.319 g, 1.04 mmol) in CH2Cl2(8.0 mL). After stirring at 0° C. for 1 hr and at room temperature for 3 hrs, the mixture was partitioned between EtOAc-water. The organic phase was washed with water, 5% KHSO4, saturated NaHCO3 and saturated NaCl solutions, dried over anhydrous Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography on silica gel eluting with EtOAc-hexane (3:2) to give the title compound (0.307 g, 63%) as a white solid. TLC(MeOH—CH2Cl2; 1:9) Rf=0.69.

reactant | (1-naphthyloxy)acetic acid | 1.0 mmol, 0.202 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)O | C12H10O3
reactant | hydroxybenzotriazole hydrate | 0.168 g | O.OC1=CC=CC=2NN=NC21
reactant | 1-ethyl-3-(3′,3′-dimethyl-1′-aminopropyl)carbodiimide hydrochloride | 1.3 mmol, 0.249 g | Cl.C(C)N=C=NC(CC(C)C)N
reactant | (3RS,4RS)-3-(valinyl)amino-5-fluoro-4-hydroxypentanoic acid, tert-butyl ester | 1.04 mmol, 0.319 g | N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C14H27FN2O4
solvent | dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | 8.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6.0 mL | C(Cl)Cl | CH2Cl2
product | (3RS,4RS)-3-[N-((1-Naphtyloxy)Acetyl)Valinyl]Amino-5-Fluoro-4-Hydroxypentanoic Acid, tert-Butyl Ester | 0.307 g, 63% | C1(=CC=CC2=CC=CC=C12)OCC(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C26H35FN2O6
